US07368578B2
A mixture of 4-(4-benzoyl-3-hydroxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole (54.93 g), methyl bromoacetate (32.88 g), potassium carbonate (19.76 g) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. A mixture of the obtained residue, 1,8-diazabicyclo[5.4.0]-7-undecene (21.77 g), and toluene (750 mL) was heated under reflux for 20 hrs with azeotropic removal of water. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:8, v/v) to give methyl 6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-carboxylate as colorless crystals (34.36 g, yield 55%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 139-140° C.

reactant | 4-(4-benzoyl-3-hydroxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole | 54.93 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)O | C24H19NO4
reactant | methyl bromoacetate | 32.88 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 19.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 6-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-carboxylate | 34.36 g, yield 55% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C(=C(O2)C(=O)OC)C2=CC=CC=C2)C=C1 | C27H21NO5
